US05434150
Ethyl 4-amino-3-nitro-phenoxy-acetate
25 g of 4-amino-3-nitro-phenol are dissolved in 250 ml of dimethylformamide and 18.5 g of potassium tert.butoxide are added in batches whilst cooling with ice. The mixture is stirred for a further 1.5 hours, then 18.5 ml of ethylbromoacetate are added dropwise, whilst cooling with water, and the mixture is stirred for a further 16 hours at ambient temperature. The solvent is evaporated off in vacuo and the residue is taken up with a mixture of 500 ml of ethyl acetate, 250 ml of tetrahydrofuran and 750 ml of water and the organic phase is washed with saturated saline solution. The aqueous phases are extracted with ethyl acetate, the organic phases are combined and evaporated down and the residue is purified by column chromatography (neutral aluminium oxide; eluant:methylene chloride). Yield: 29 g (75% of theory),

reactant | 4-amino-3-nitro-phenol | 25 g | NC1=C(C=C(C=C1)O)[N+](=O)[O-] | C6H6N2O3
reactant | potassium tert.butoxide | 18.5 g | CC(C)([O-])C.[K+]
reactant | ethylbromoacetate | 18.5 ml | C(C)OC(CBr)=O | C4H7BrO2
reactant | water | O | H2O
solvent | dimethylformamide | 250 ml | CN(C=O)C | C3H7NO
product | Ethyl 4-amino-3-nitro-phenoxy-acetate | NC1=C(C=C(OCC(=O)OCC)C=C1)[N+](=O)[O-] | C10H12N2O5
